US05968954
1-(2,3-dihydro[1,4]benzodioxin-5-yl)-4aminopiperidine
20 g (59.0 mmol) of the above compound are mixed with 8.9 g (58.9 mmol) of 5-amino-1,4-benzodioxane in 120 ml of chlorobenzene at room temperature, and the mixture is then heated at reflux overnight. It is allowed to cool the product is deposited on the walls of the three-necked flask. The chlorobenzene phase is decanted off, and then the residue is taken up in 50 ml of water then 200 ml of N hydrochloric acid, washed with ether (significant emulsion), rendered basic in the cold with concentrated sodium hydroxide solution and extracted 3 times with 200 ml of ethyl acetate each time. The combined organic phases are dried over magnesium sulphate, concentrated (15 g), then chromatographed on silica (eluant:dichloromethane/methanol/ammonium hydroxide, 95/5/0.5) to yield 4.7 g of the desired product (theory: 13.8 g) in the form of a paste.

reactant | 5-amino-1,4-benzodioxane | 58.9 mmol, 8.9 g | NC1=CC=CC=2OCCOC21 | C8H9NO2
solvent | chlorobenzene | 120 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(2,3-dihydro[1,4]benzodioxin-5-yl)-4aminopiperidine | 4.7 g | O1CCOC2=C1C=CC=C2N2CCC(CC2)N | C13H18N2O2
